US04242344
To a solution of the mixture of 3,8-dichloroimidazo[1,2-a]pyrazine and 8-bromo-3-chloroimidazo[1,2-a]pyrazine obtained above in 25 ml of acetonitrile is added an excess amount of piperazine (5 g). After refluxing and isolation in essentially the same manner as Example 1, Step B, 3-chloro-8-(1-piperazinyl)-imidazo[1,2-a]pyrazine hydrochloride salt is obtained with m.p. >300° C. dec.

reactant | 3,8-dichloroimidazo[1,2-a]pyrazine | ClC1=CN=C2N1C=CN=C2Cl | C6H3Cl2N3
reactant | 8-bromo-3-chloroimidazo[1,2-a]pyrazine | BrC=1C=2N(C=CN1)C(=CN2)Cl | C6H3BrClN3
reactant | piperazine | 5 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-chloro-8-(1-piperazinyl)-imidazo[1,2-a]pyrazine hydrochloride salt | Cl.ClC1=CN=C2N1C=CN=C2N2CCNCC2 | InChI=1S/C10H12ClN5.ClH/c11-8-7-14-10-9(13-3-6-16(8)10)15-4-1-12-2-5-15;/h3,6-7,12H,1-2,4-5H2;1H
